### PR TITLE
[Merged by Bors] - chore(Computability/Language): deprecate some duplicate order lemmas

### PR DESCRIPTION
**Pull request by eric-wieser**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/Language.lean [hunk 1]
```diff
@@ -268,15 +270,19 @@ instance : KleeneAlgebra (Language α) :=
...
       refine iSup_le (fun n ↦ ?_)
       induction n with
       | zero => simp
       | succ n ih =>
         rw [pow_succ, ← mul_assoc m (l^n) l]
-        exact le_trans (le_mul_congr ih le_rfl) h }
+        exact le_trans (mul_le_mul_right' ih _) h }
+
+@[deprecated add_le_add (since := "2025-10-26")]
+theorem le_add_congr {l₁ l₂ m₁ m₂ : Language α} : l₁ ≤ m₁ → l₂ ≤ m₂ → l₁ + l₂ ≤ m₁ + m₂ :=
```
Comment (vihdzp) [inline Mathlib/Computability/Language.lean:284]: Why did this get moved all the way down? Otherwise LGTM.

**Review by vihdzp — APPROVED** [review]

File: Mathlib/Computability/Language.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Computability/Language.lean:284]: The replacement for it isn't available until this point; it's implied by the instance above.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
